US05552558
U. (2S,3S,5S)-5-(N-(N-((N-Methyl-N-((2-isopropyl-4-thiazolyl)methyl)amino)carbonyl)valinyl)amino)-2-(N-((5-thiazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane
A solution of 70 mg (0.223 mmol) of N-((N-methyl-N-((2-isopropyl-4-thiazolyl)methyl)amino)carbonyl)-L-valine, 79 mg (0.186 mmol) of (2S,3S,5S)-5-amino-2-(N-((5-thiazolyl)methoxycarbonyl)amino)- 1,6-diphenyl-3-hydroxyhexane, 30 mg (0.223 mmol) of 1-hydroxybenzotriazole hydrate, and 51 mg (0.266 mmol) of N-ethyl-N'-dimethylaminopropyl carbodiimide in 2 ml of THF was stirred at ambient temperature for 16 h. The resulting solution was concentrated in vacuo, and the residue was purified by silica gel chromatography using 97:3 CH2Cl2 :CH3OH to provide 100 mg (74%) of the desired compound (Rf 0.4, 95:5 CH2Cl2 :CH3OH) as a solid. 1H NMR (d6 -DMSO) δ0.73 (d, J=7 Hz, 6H), 1.30 (d, J=7 Hz, 6H), 1.45 (m, 2H), 1.87 (m, 1H), 2.5-2.7 (m, 4H), 2.87 (s, 3H), 3.23 (heptet, J=7 Hz, 1H), 3.57 (m, 1H), 3.81 (m, 1H), 3.93 (m, 1H), 4.15 (m, 1H), 4.44 (AA', 2H), 4.62 (d, J=6 Hz, 1H), 5.13 (AA', 2H), 6.01 (d, J=9 Hz, 1H), 6.89 (d, J=9 Hz, 1H), 7.1-7.2 (m, 11 H), 7.68 (d, J=9 Hz, 1H), 7.85 (s, 1H), 9.05 (s, 1H). Mass spectrum: (M+H)+ =721. Anal. Calcd for C37H48N6O5S2.0.5H2O: C, 60.88; H, 6.77; N, 11.51. Found: C, 60.68; H, 6.53; N, 11.36.

reactant | N-((N-methyl-N-((2-isopropyl-4-thiazolyl)methyl)amino)carbonyl)-L-valine | 0.223 mmol, 70 mg | CN(CC=1N=C(SC1)C(C)C)C(=O)N[C@@H](C(C)C)C(=O)O | C14H23N3O3S
reactant | (2S,3S,5S)-5-amino-2-(N-((5-thiazolyl)methoxycarbonyl)amino)- 1,6-diphenyl-3-hydroxyhexane | 0.186 mmol, 79 mg | N[C@H](C[C@@H]([C@H](CC1=CC=CC=C1)NC(=O)OCC1=CN=CS1)O)CC1=CC=CC=C1 | C23H27N3O3S
reactant | 1-hydroxybenzotriazole hydrate | 0.223 mmol, 30 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-ethyl-N'-dimethylaminopropyl carbodiimide | 0.266 mmol, 51 mg | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (2S,3S,5S)-5-(N-(N-((N-Methyl-N-((2-isopropyl-4-thiazolyl)methyl)amino)carbonyl)valinyl)amino)-2-(N-((5-thiazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane | 100 mg, 74% | CN(CC=1N=C(SC1)C(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@H](C[C@@H]([C@H](CC1=CC=CC=C1)NC(=O)OCC1=CN=CS1)O)CC1=CC=CC=C1 | C37H48N6O5S2
